US04628057
(3RS)-2-[(4-Methylbenzylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid
In the same manner as described in Example 16, (3RS)-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid (4.22 g), 10N NaOH (3.9 ml), carbon disulfide (1.4 ml), dimethylsulfoxide (12 ml) and 4-methylbenzyl chloride (3.3 g) are reacted and treated. The product is crystallized from ethanol to give the title compound (3.13 g), m.p. 188°-190° C.

reactant | (3RS)-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 4.22 g | C1NC(CC=2C3=CC=CC=C3NC12)C(=O)O | C12H12N2O2
reactant | NaOH | 10N, 3.9 ml | [OH-].[Na+]
reactant | carbon disulfide | 1.4 ml | C(=S)=S | CS2
reactant | 4-methylbenzyl chloride | 3.3 g | CC1=CC=C(CCl)C=C1 | C8H9Cl
solvent | dimethylsulfoxide | 12 ml | CS(=O)C | C2H6OS
product | (3RS)-2-[(4-Methylbenzylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 3.13 g | CC1=CC=C(CSC(=S)N2CC=3NC4=CC=CC=C4C3CC2C(=O)O)C=C1 | C21H20N2O2S2
